US07183293B2
(S)-3-(4-Cyano-3-fluoro-phenoxy)-2-methyl-propionic acid methyl ester of Formula (5.0.38)
To a stirred solution of 2-fluoro-4-hydroxybenzonitrile (1.0 g, 7.3 mmol), (S)-3-hydroxy-2-methyl-propionic acid methyl ester (0.8 mL, 7.3 mmol) and triphenylphosphine (2.3 g, 8.8 mmol) at room temperature, diethyl azodicarboxylate (1.4 mL, 8.8 mmol) was added dropwise. The mixture was stirred at room temperature overnight, diluted with ethyl acetate and washed successively with dilute aqueous sodium hydroxide, dilute aqueous hydrochloric acid, brine, and dried (MgSO4). Solvents were stripped in vacuo. The resulting oil was washed with diethyl ether and the precipitate was filtered off. The mother liquor was adsorbed onto silica gel and the product purified by flash column chromatography (40% ethyl acetate/hexane), affording 0.14 g of a yellow oil (8% yield).

reactant | 2-fluoro-4-hydroxybenzonitrile | 7.3 mmol, 1.0 g | FC1=C(C#N)C=CC(=C1)O | C7H4FNO
reactant | (S)-3-hydroxy-2-methyl-propionic acid methyl ester | 7.3 mmol, 0.8 mL | COC([C@H](CO)C)=O | C5H10O3
reactant | triphenylphosphine | 8.8 mmol, 2.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 8.8 mmol, 1.4 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-3-(4-Cyano-3-fluoro-phenoxy)-2-methyl-propionic acid methyl ester | 0.14 g, 8% yield | COC([C@H](COC1=CC(=C(C=C1)C#N)F)C)=O | C12H12FNO3
